US07566712B2
W. 5-chloro-4-((R)-4-(6-(4-fluorophenyl)-2-((R)-2-methylpyrrolidin-1-yl)pyrimidin-4-yl)-3-methylpiperazin-1-yl)-2-methoxypyrimidine
Dissolve 5-chloro-4-((R)-4-(2-chloro-6-(4-fluorophenyl)pyrimidin-4-yl)-3-methylpiperazin-1-yl)-2-methoxypyrimidine (45 mg, 0.1 mmol) and (R)-2-methylpyrrolidine hydrobromide (0.2 mmol, prepared essentially as described by Nijhuis et. al. (1989) J. Org. Chem. 54:209-216) in CH3CN (2.0 mL) under nitrogen atmosphere. Add K2CO3 (55 mg, 0.4 mmol) and heat at 80° C. for 20 hours. Concentrate under vacuum, dilute with water (5.0 mL), extract with EtOAc (3×3 mL) and dry with MgSO4. Filter, and concentrate under vacuum to afford crude product and purify by flash column chromatography using 20% EtOAc/hexane to afford the title product as viscous oil. NMR (CDCl3) δ 1.3 (6H, m), 1.69 (1H, m), 1.91 (1H, m), 2.06 (2H, m), 3.21 (1H, m), 3.35 (2H, m), 3.63 (2H, m), 3.94 (3H, s), 4.28 (2H, m), 4.45 (2H, m), 4.64 (1H, bs), 6.19 (1H, s), 7.07 (2H, t), 7.97 (2H, m), 8.08 (1H, s). Mass spec m/z=498.17.

reactant | 5-chloro-4-((R)-4-(2-chloro-6-(4-fluorophenyl)pyrimidin-4-yl)-3-methylpiperazin-1-yl)-2-methoxypyrimidine | 0.1 mmol, 45 mg | ClC=1C(=NC(=NC1)OC)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)Cl)C | C20H19Cl2FN6O
reactant | (R)-2-methylpyrrolidine hydrobromide | Br.C[C@H]1NCCC1
reactant | K2CO3 | 0.4 mmol, 55 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 2.0 mL | CC#N | C2H3N
product | 5-chloro-4-((R)-4-(6-(4-fluorophenyl)-2-((R)-2-methylpyrrolidin-1-yl)pyrimidin-4-yl)-3-methylpiperazin-1-yl)-2-methoxypyrimidine | ClC=1C(=NC(=NC1)OC)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](CCC1)C)C | C25H29ClFN7O
